US07553965B2
N-Ethyl-4-methyl-N-[3-(2,2a,4,5-tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propyl]-benzenesulfonamide hydrochloride (89)
4-Methylbenzenesulfonyl chloride (20.9 mg, 0.11 mmol) was added to a solution of Ethyl-[3-(2,2a,4,5-tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propyl]-amine dihydrochloride (31.7 mg, 0.1 mmol) and N,N′-diisopropylethylamine (64.6 mg, 0.5 mmol) in CH2Cl2 (10 mL) and the mixture was stirred overnight at room temperature. The resulting solution was washed with water (3×10 mL), dried over Na2SO4 and evaporated to dryness. The free base was dissolved in ethyl acetate (1 ml). A 2.8 M solution of hydrogen chloride in ethanol (0.10 mL) was then added. The product was crystallized and collected by filtration, and vacuum dried to give a white solid (18.0 mg, 41%).

reactant | 4-Methylbenzenesulfonyl chloride | 0.11 mmol, 20.9 mg | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | Ethyl-[3-(2,2a,4,5-tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propyl]-amine dihydrochloride | 0.1 mmol, 31.7 mg | Cl.Cl.C(C)NCCCN1C2CCC=3C=CC=C(CC1)C32
reactant | N,N′-diisopropylethylamine | 0.5 mmol, 64.6 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-Ethyl-4-methyl-N-[3-(2,2a,4,5-tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propyl]-benzenesulfonamide hydrochloride | 18.0 mg, 41% | Cl.C(C)N(S(=O)(=O)C1=CC=C(C=C1)C)CCCN1C2CCC=3C=CC=C(CC1)C32 | InChI=1S/C23H30N2O2S.ClH/c1-3-25(28(26,27)21-11-8-18(2)9-12-21)16-5-15-24-17-14-20-7-4-6-19-10-13-22(24)23(19)20;/h4,6-9,11-12,22H,3,5,10,13-17H2,1-2H3;1H
